US05041455
B. 3-(4-(2-ethoxyethoxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (0.5 ml, 9 mmol) and 3-(4-(2-ethoxyethoxy)-1,2,5-thiadiazol-3-yl)pyridine (4 mmol) in acetone (3 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration to yield 1.45 g (92%).

reactant | methyl iodide | 9 mmol, 0.5 ml | CI | CH3I
reactant | 3-(4-(2-ethoxyethoxy)-1,2,5-thiadiazol-3-yl)pyridine | 4 mmol | C(C)OCCOC=1C(=NSN1)C=1C=NC=CC1 | C11H13N3O2S
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 3-(4-(2-ethoxyethoxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(C)OCCOC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C12H16N3O2S.HI/c1-3-16-7-8-17-12-11(13-18-14-12)10-5-4-6-15(2)9-10;/h4-6,9H,3,7-8H2,1-2H3;1H/q+1;/p-1
